US08957215B2
5-(6-Methoxy-1,3-benzothiazol-2-yl)-N,N-dimethylpyridin-2-amine
2-(6-Fluoropyridin-3-yl)-6-methoxy-1,3-benzothiazole (0.201 g) and 2 M dimethylamine in THF (5 mL) were heated in a microwave oven at 100° C. for 5 min. Water was added and the precipitated product was filtered off, washed with water and dried in a desicator over P2O5 to yield 0.193 g of the product as a pale beige solid. 1H NMR δ ppm 8.71 (d, 1 H) 8.07 (dd, 1 H) 7.84 (d, 1 H) 7.65 (d, 1 H) 7.08 (dd, 1 H) 6.77 (d, 1 H) 3.84 (s, 3 H) 3.12 (s, 6 H); MS m/z (M+H) 286.

reactant | 2-(6-Fluoropyridin-3-yl)-6-methoxy-1,3-benzothiazole | 0.201 g | FC1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)OC | C13H9FN2OS
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(6-Methoxy-1,3-benzothiazol-2-yl)-N,N-dimethylpyridin-2-amine | 0.193 g | COC1=CC2=C(N=C(S2)C=2C=CC(=NC2)N(C)C)C=C1 | C15H15N3OS
